US07547691B2
2-[5-Bromo-2-(3-piperazin-1-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the synthetic method of 2-[5-chloro-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride, the title compound is synthesized from 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid (59% yield). ES+(m/z) 515 (79Br) and 517 (81Br) [M(free base)+H].

reactant | 2-[5-chloro-2-(2-piperidin-4-yl-ethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide di-hydrochloride | Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCC2CCNCC2
reactant | 2-(5-bromo-2-chloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)Cl | C16H11BrClN3OS
reactant | 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
product | 2-[5-Bromo-2-(3-piperazin-1-yl-propylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Br)NCCCN2CCNCC2 | InChI=1S/C23H27BrN6OS.3ClH/c24-18-14-27-23(26-7-2-10-30-11-8-25-9-12-30)29-21(18)20-13-17-16(3-1-4-19(17)32-20)22(31)28-15-5-6-15;;;/h1,3-4,13-15,25H,2,5-12H2,(H,28,31)(H,26,27,29);3*1H
